US07723336B2
To a 25 mL flask was added 3-(3-chlorophenyl)furan-2,5-dione (1.7 g, 8.15 mmol) from (1a) and hydrazine hydrate (0.476 mL, 9.78 mmol) in water (6 mL) and acetic acid (4 mL). The resulting mixture was refluxed for 18 hours. The solution was cooled and placed in the refrigerator for 1 hour. The resulting precipitate was filtered and dried, then purified by flash chromatography eluting with 5% methanol/dichloromethane to give 4-(3-chlorophenyl)pyridazine-3,6-diol.

reactant | 3-(3-chlorophenyl)furan-2,5-dione | 8.15 mmol, 1.7 g | ClC=1C=C(C=CC1)C=1C(OC(C1)=O)=O | C10H5ClO3
reactant | hydrazine hydrate | 9.78 mmol, 0.476 mL | O.NN
solvent | water | 6 mL | O | H2O
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 4-(3-chlorophenyl)pyridazine-3,6-diol | ClC=1C=C(C=CC1)C1=C(N=NC(=C1)O)O | C10H7ClN2O2
